US06680329B2
1.05 ml (9.19 mmol) of aqueous 35% sodium hydroxide solution and 2 g (9.17 mmol) of bis(1,1-dimethylethyl)dicarbonate are added to a solution of 0.85 g (4.36 mmol) of (S)-α,5-diamino-2-pyridinebutanoic acid in 50 ml of water and 50 ml of 1,1-dimethylethanol. The solution is stirred for 2 h at room temperature and a further 2 g (9.17 mmol) of bis(1,1-dimethylethyl) dicarbonate and 1 ml of aqueous 35% sodium hydroxide solution are added. After stirring for 15 h at room temperature, the reaction medium is diluted with 100 ml of aqueous 1N sodium hydroxide solution and 50 ml of saturated sodium chloride solution and then washed with 2×300 ml of ether. The aqueous phase is acidified with citric acid to pH=4-5 and then extracted with a 75/25 dichloromethane/isopropanol mixture (2×100 ml). The organic phases are combined and concentrated under reduced pressure. The residue is taken up in 100 ml of toluene and concentrated again under reduced pressure. 1.18 g of (S)-α,5-bis[[(1,1-dimethylethoxy)carbonyl]amino]-2-pyridinebutanoic acid are obtained in the form of a viscous oil.

reactant | bis(1,1-dimethylethyl)dicarbonate | 9.17 mmol, 2 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (S)-α,5-diamino-2-pyridinebutanoic acid | 4.36 mmol, 0.85 g | N[C@H](C(=O)O)CCC1=NC=C(C=C1)N | C9H13N3O2
reactant | bis(1,1-dimethylethyl) dicarbonate | 9.17 mmol, 2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 50 ml | O | H2O
solvent | 1,1-dimethylethanol | 50 ml | CC(C)(O)C | C4H10O
solvent | sodium hydroxide | 1N | [OH-].[Na+]
solvent | sodium chloride | 50 ml | [Cl-].[Na+]
product | (S)-α,5-bis[[(1,1-dimethylethoxy)carbonyl]amino]-2-pyridinebutanoic acid | 1.18 g, Yield (%)=69 | CC(C)(OC(=O)N[C@H](C(=O)O)CCC1=NC=C(C=C1)NC(=O)OC(C)(C)C)C | C19H29N3O6
